US06518265B1
tert-Butyl 4-[2-(4-dimethylamino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)-ethyl]-1-piperidinecarboxylate
A mixture of 0.69 g of tert-butyl 4-[2-(4-chloro-2-phenyl-1H-imidazo[4,5-c]-quinolin-1-yl)ethyl]-1-piperidinecarboxylate and 7 ml of 50% aqueous dimethylamine solution was stirred in a sealed tube at 80° C. of outer temperature for 2 hours. The reaction solution was added with water and extracted with ethyl acetate. The extract was washed successively with water and saturated brine, and dried, and the solvent was evaporated. The residue was washed successively with isopropanol and diisopropyl ether to give 0.52 g of colorless crystals. Recrystallization from isopropanol gave colorless crystals having the melting point of from 170.5 to 171.5° C.

reactant | tert-butyl 4-[2-(4-chloro-2-phenyl-1H-imidazo[4,5-c]-quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 0.69 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C28H31ClN4O2
reactant | dimethylamine | 7 ml | CNC | C2H7N
solvent | water | O | H2O
product | tert-Butyl 4-[2-(4-dimethylamino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)-ethyl]-1-piperidinecarboxylate | 0.52 g | CN(C1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C | C30H37N5O2
